US07262212B2
Potassium tert-butoxide (9.4 g, 84 mmol) was added to a mixture of methyltriphenylphosphonium bromide (30 g, 84 mmol) in THF (300 ml), and the mixture was stirred at room temperature for 40 minutes. To the mixture a solution of 4-oxopentyl acetate (9.9 g, 68.8 mmol) in THF (30 ml) was gradually added dropwise while cooling in an ice-bath, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into ice water, and extracted with diethyl ether twice. The extracts were combined, washed with brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to afford 4-methyl-4-pentenyl acetate (5.9 g, yield 60.4%) as a colorless oil.

reactant | Potassium tert-butoxide | 84 mmol, 9.4 g | CC(C)([O-])C.[K+]
reactant | 4-oxopentyl acetate | 68.8 mmol, 9.9 g | C(C)(=O)OCCCC(C)=O | C7H12O3
catalyst | methyltriphenylphosphonium bromide | 84 mmol, 30 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-methyl-4-pentenyl acetate | 5.9 g, yield 60.4% | C(C)(=O)OCCCC(=C)C | C8H14O2
